Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Bilateral adnexal masses and thickened endometrium
 
Major Surgical or Invasive Procedure:
-total laparoscopic hysterectomy
-bilateral salpingo-oophorectomy
-bilateral pelvic and para-aortic lymph node dissection
-omentectomy
-pelvic washings

 
History of Present Illness:
 Ms. ___ is a ___ gravida 1 para 1 with a history 
of molar pregnancy who in ___ developed vaginal bleeding, 
which she thought was her menstruation.  However, since that 
time, her bleeding has continued with periods where it becomes 
heavy and other period episodes where it is lighter.  She was 
seen by her primary care and underwent a pelvic ultrasound on 
___, which revealed bilateral complex ovarian masses, on the 
right measuring 7.7 x 5.2 x 4.7 cm with mixed solid and cystic 
components with internal flow; the left measuring 4.5 x 4 x 2.9 
cm with mixed solid and cystic and internal flow.  There is also 
trace free fluid.  She also had a uterus enlarged measuring 10 x 
7 x 8 cm with a thickened endometrium up to 30 mm with internal 
flow.  She subsequently had a CA-125, which was 179, a ___, 
which was 2615, a CEA of 3.2.  She presents today to discuss 
management, complaining of only continued vaginal bleeding.  
Otherwise, no abdominal pain, nausea, vomiting, chest pain, 
shortness of breath, change in bladder or bowel habits.

An endometrial biopsy on ___ showed grade 3 
endometrioid endometrial cancer. A CT scan showed an enhancing 
mass in the uterus and bilateral complex adnexal cystic 
structures without evidence of local or regional extension. A 
4-mm left lower lobe lung nodule was noted.
 
Past Medical History:
PAST MEDICAL HISTORY:  Significant for hypertension and 
hypercholesterolemia.  She had a history of molar pregnancy x 2 
in ___ and ___, at which point she was treated with 
methotrexate.

PAST SURGICAL HISTORY:  D&C in ___.

OB AND GYN HISTORY:  She is a gravida 1 para 1 with one 
spontaneous vaginal delivery.  Her last menstrual period was 
___.  Her menarche at age ___ with regular periods 
lasting seven days.  She has no history of abnormal Pap smears.  
Her last Pap smear in ___ was negative.  No history of 
sexually transmitted infections or fibroids or cyst.
 
Social History:
___
Family History:
No history of GYN malignancies
 
Physical Exam:
on discharge:
afebrile, vital signs stable
Gen: NAD, AxO
CV: RRR
Resp: CTAB
Abd: +BS, soft, nondistended, appropriate tenderness to 
palpation, incisions c/d/i 
Ext: calves NT
 
Pertinent Results:
CBC:
___ 05:50AM BLOOD WBC-7.8# RBC-3.20* Hgb-9.6* Hct-29.7* 
MCV-93 MCH-29.9 MCHC-32.2 RDW-13.5 Plt ___
___ 06:30PM BLOOD WBC-17.6*# RBC-3.82* Hgb-11.7* Hct-35.0* 
MCV-92 MCH-30.7 MCHC-33.5 RDW-13.5 Plt ___
___ 06:30PM BLOOD Neuts-94.4* Lymphs-4.2* Monos-1.2* 
Eos-0.1 Baso-0.1

Coags:
___ 06:30PM BLOOD ___ PTT-28.9 ___

Chemistry:
___ 05:50AM BLOOD Glucose-102* UreaN-13 Creat-0.7 Na-139 
K-3.8 Cl-104 HCO3-27 AnGap-12
___ 06:30PM BLOOD Glucose-147* UreaN-13 Creat-0.8 Na-141 
K-3.9 Cl-103 HCO3-27 AnGap-15
___ 05:50AM BLOOD Calcium-7.9* Phos-3.4 Mg-1.8
___ 06:30PM BLOOD Calcium-9.0 Phos-4.1 Mg-1.9

___ Final surgical pathology pending at time of discharge 
summary
 
Brief Hospital Course:
Ms. ___ is a ___ G1P1 woman who was admitted to the 
gynecologic oncology service after undergoing total laparoscopic 
hysterectomy, bilateral salpingo-oophorectomy, bilateral pelvic 
and para-aortic lymph node dissections, omentectomy, and pelvic 
washings for bilateral adnexal masses and thickened endometrium. 
Intraoperatively, there was tumor extruding from her cervix, 
both ovaries were enlarged, and there was tumor nodules on the 
posterior cul-de-sac. Intra-operative pathology was consistent 
with endometrial cancer; final pathology is pending at the time 
of this discharge summary. Please refer to Dr. ___ 
___ report for details of the operation.

Her post-operative course was uncomplicated. On post-operative 
day 1, her urine output was adequate, so her foley was removed 
and she voided spontaneously. By post-operative day 2, she was 
tolerating a regular diet, ambulating independently, voiding 
spontaneously, and pain was controlled by oral medications. She 
was then discharged home in stable condition with outpatient 
follow-up scheduled with Dr. ___.
 
Medications on Admission:
Furosemide, lisinopril, simvastatin, and aspirin.
 
Discharge Medications:
1. oxycodone-acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain.
Disp:*75 Tablet(s)* Refills:*0*
2. ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.
Disp:*60 Tablet(s)* Refills:*2*
3. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
4. furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. simvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
bilateral adnexal masses - final pathology pending

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. Please follow these instructions:

General instructions:  
* Take your medications as prescribed.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol  
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs  
* No strenuous activity until your post-op appointment  
* Nothing in the vagina (no tampons, no douching, no sex), no 
heavy lifting of objects >10lbs for 3 months  
* You may eat a regular diet  

Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.  
 
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  

 
Followup Instructions:
___